US07576115B2
Synthesis of methyl 4-{[2-(1-[4-hydroxy-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl]ethylidene)hydrazino]carbonyl}-2-nitrobenzoate
From 1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone (0.70 mmol, 200 mg) synthesized in Synthetic Example 11, methyl 2-nitro-4-hydrazinocarbonylbenzoate (0.70 mmol, 168.3 mg) of Reference Synthetic Example 40 and tosylic acid monohydrate (36.4 mg, 0.21 mmol), 214.7 mg of the desired product was obtained in the same manner as in Synthetic Example 58 as a yellow solid (yield 60%).

reactant | 1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone | 0.70 mmol, 200 mg | OC=1C(=NN(C1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=O | C13H11F3N2O2
reactant | methyl 2-nitro-4-hydrazinocarbonylbenzoate | 0.70 mmol, 168.3 mg | [N+](=O)([O-])C1=C(C(=O)OC)C=CC(=C1)C(=O)NN | C9H9N3O5
reactant | tosylic acid monohydrate | 0.21 mmol, 36.4 mg | O.S(=O)(=O)(O)C1=CC=C(C)C=C1
product | methyl 4-{[2-(1-[4-hydroxy-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl]ethylidene)hydrazino]carbonyl}-2-nitrobenzoate | 214.7 mg | OC=1C(=NN(C1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=NNC(=O)C1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C22H18F3N5O6
